US05716950
3-Chloropropanesulfonyl chloride (2.54 g) is dissolved in methylene chloride and isopropylamine (1.90 g) is added dropwise under ice cooling. After stirring at room temperature for 2 hours, the solution is extracted with methylene chloride and water to give crude 3-chloropropanesulfonyl methylethylamine (2.54 g, 89%) as pale yellow liquid.

reactant | 3-Chloropropanesulfonyl chloride | 2.54 g | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | isopropylamine | 1.90 g | C(C)(C)N | C3H9N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-chloropropanesulfonyl methylethylamine | 2.54 g, 89% | ClCCCS(=O)(=O)N(CC)C | C6H14ClNO2S
